US04800201
(ii) Preparation of 5-methyl-6-(3-chloro-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one
A mixture of 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-chloro-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one (0.25 g) and sulfur sublimed (0.125 g) in N,N-dimethylformamide (2 ml) was stirred at 160° C. for 5 hours. The solvent was removed under reduced pressure and the residue was extracted with 2N hydrochloric acid. The insoluble matter was removed by filtration and the filtrate was washed with ether and was adjusted to pH about 7.5 by 2N aqueous sodium hydroxide. The resulting precipitates were extracted with chloroform. The extract was dried over magnesium sulfate and was evaporated to dryness. The residue was chromatographed on silica gel (Wakogel C-200) column, using chloroformmethanol (=30:1) as an eluant to give the titled compound (0.083 g, yield 57.8%) as milky white crystals.

reactant | 5-methyl-6-[1-(2,2,2-trichloroethoxycarbonyl)-3-chloro-1,4-dihydro-4-pyridinyl]-2H-1,4-thiazin-3(4H)-one | 0.25 g | CC=1NC(CSC1C1C(=CN(C=C1)C(=O)OCC(Cl)(Cl)Cl)Cl)=O | C13H12Cl4N2O3S
reactant | sulfur | 0.125 g | [S] | S
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-(3-chloro-4-pyridinyl)-2H-1,4-thiazin-3(4H)-one | 0.083 g, yield 57.8% | CC=1NC(CSC1C1=C(C=NC=C1)Cl)=O | C10H9ClN2OS
